US08530648B2
2-(naphthalen-1-ylmethyl)-9-(quinoxalin-2-yl)-2,9-diazaspiro[5.5]undecan-1-one
A solution of tert-butyl 1-Oxo-2,9-diaza-spiro[5.5]undecane-9-carboxylate (400 mg, 1.5 mmol) in DMF (2 ml) was added slowly at rt to a suspension of sodium hydride 95% (54 mg, 2.24 mmol) in THF (6 ml). The reaction mixture was stirred for 20 min at rt. Then a solution of 1-(chloromethyl)naphthalene (0.33 ml, 2.24 mmol) in THF (2 ml) was added dropwise followed by the addition of tetrabutylammonium iodide (55 mg, 0.15 mmol). The mixture was stirred at 45° C. for 18 h. The reaction mixture was quenched with H2O (50 ml) and extracted twice with EtOAc (50 ml). The combined organic layer was dried over Na2SO4, filtered and evaporated. The residue was purified by flash chromatography (hexane/EtOAc 2:1) to yield 377 mg (61%) of the title compound. [1H NMR (DMSO, 400 MHz) δ 8.01 (m, 1H), 7.93 (m, 1H), 7.85 (m, 1H), 7.55-7.42 (m, 3H), 7.30 (m, 1H), 4.95 (s, 2H), 3.72 (m, 2H), 3.15-2.95 (m, 4H), 1.98-1.82 (m, 2H), 1.78-1.62 (m, 4H), 1.48-1.38 (m, 2H), 1.39 (s, 9H)].

reactant | tert-butyl 1-Oxo-2,9-diaza-spiro[5.5]undecane-9-carboxylate | 1.5 mmol, 400 mg | O=C1NCCCC12CCN(CC2)C(=O)OC(C)(C)C | C14H24N2O3
reactant | sodium hydride | 2.24 mmol, 54 mg | [H-].[Na+]
reactant | 1-(chloromethyl)naphthalene | 2.24 mmol, 0.33 ml | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium iodide | 0.15 mmol, 55 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(naphthalen-1-ylmethyl)-9-(quinoxalin-2-yl)-2,9-diazaspiro[5.5]undecan-1-one | 377 mg, 61% | C1(=CC=CC2=CC=CC=C12)CN1C(C2(CCC1)CCN(CC2)C2=NC1=CC=CC=C1N=C2)=O | C28H28N4O
